US07790728B2
1-[5-Amino-3-(2-furyl)pyrazin-2-yl]ethanone
To a stirred solution of 5-bromo-6-(2-furyl)pyrazin-2-amine (Preparation 2, 1.5 g, 6.3 mmol) in a mixture of DMF (16 mL) and water (4 mL) was added butyl vinyl ether (4.10 mL, 31.5 mmol), potassium acetate (3.80 mL, 7.56 mmol), 1,3-bis-(diphenylphosphino)propane (0.172 g, 0.416 mmol) and palladium(II) acetate (42.0 mg, 0.189 mmol)1. The mixture was subjected to three cycles of evacuation-backfilling with argon and heated at 122° C. under microwave irradiation. After 4 h, the mixture was cooled to room temperature and hydrolyzed by adding of HCl 2N (30 mL) for 30 min. The mixture was then neutralized with a saturated solution of potassium carbonate and diluted with dichloromethane. The organic layer was separated, dried (Na2SO4) and evaporated. The residue was purified by silica gel flash chromatography (2% methanol in dichloromethane). Concentration in vacuo of the product-rich fractions provided the titled compound as a pale-yellow solid (0.77 g, 60%). 1K. S. A. Vallin, M. Larhed, A. Hallberg, J. Org. Chem., 2001, 66, 4340.

reactant | 5-bromo-6-(2-furyl)pyrazin-2-amine | 6.3 mmol, 1.5 g | BrC=1N=CC(=NC1C=1OC=CC1)N | C8H6BrN3O
reactant | butyl vinyl ether | 31.5 mmol, 4.10 mL | C(=C)OCCCC | C6H12O
reactant | potassium acetate | 7.56 mmol, 3.80 mL | C(C)(=O)[O-].[K+]
reactant | 1,3-bis-(diphenylphosphino)propane | 0.416 mmol, 0.172 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | HCl | 2N, 30 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | 4 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium(II) acetate | 0.189 mmol, 42.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[5-Amino-3-(2-furyl)pyrazin-2-yl]ethanone | 0.77 g, 60% | NC=1N=C(C(=NC1)C(C)=O)C=1OC=CC1 | C10H9N3O2
